US06787536B2
4-[4-(4-Bromophenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4carboxylic acid
4-Chlorosulfonylmethyltetrahydropyran-4-carboxylic acid methyl ester (5.10 g) was added to a stirred suspension of 4-bromophenylpiperazine hydrochloride (5.51 g) and triethylamine (6.09 ml) in dichloromethane (120 ml), and the mixture was stirred at room temperature for 18 h. The dichloromethane was then removed under reduced pressure, and the residue redissolved in tetrahydrofuran (60 ml), methanol (30 ml) and water (15 ml), treated with lithium hydroxide monohydrate (4.15 g) and heated to reflux for 2 h. The organic solvents were removed in vacuo and the residue was diluted with 1 M sodium hydroxide (30 ml) and washed with diethyl ether (3×40 ml). The aqueous phase was then acidified to pH 4-5 with citric acid, forming a white precipitate, which was filtered, washed with water and dried to constant weight under vacuum at 40° C. to provide the title compound as a white solid (4.55 g, 51%).

reactant | 4-Chlorosulfonylmethyltetrahydropyran-4-carboxylic acid methyl ester | 5.10 g | COC(=O)C1(CCOCC1)CS(=O)(=O)Cl | C8H13ClO5S
reactant | 4-bromophenylpiperazine hydrochloride | 5.51 g | Cl.BrC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 6.09 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-[4-(4-Bromophenyl)piperazine-1-sulfonylmethyl]-tetrahydropyran-4carboxylic acid | 4.55 g, 51% | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC1(CCOCC1)C(=O)O | C17H23BrN2O5S
